US07915267B2
ethyl 6-chloro-4-oxo-3,4-dihydro-2-quinazolinecarboxylate
2-Amino-5-chlorobenzamide (2.387 g) and diethyl oxalate were stirred at 175° C. for 6 hr. The mixture was allowed to cool, and the obtained crude crystals were washed with hot ethanol to give the title compound (2.051 g, 58%).

reactant | 2-Amino-5-chlorobenzamide | 2.387 g | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | ethyl 6-chloro-4-oxo-3,4-dihydro-2-quinazolinecarboxylate | 2.051 g, 58% | ClC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9ClN2O3
